US07981903B2
Intermediate XVI is subjected to subsequent acylation with an acylating agent, e.g. α-bromoacetyl chloride, acryloyl chloride, or an amino acid, with coupling reagents, e.g. HATU, DMAP, and base, e.g. PS-DIPEA, and solvent, e.g. THF. The acylating agent may be reacted with an appropriate amine base, e.g. Me2NH (with solvent, e.g. THF), and the product then reduced (see reduction of IVa, scheme 4) to provide anilino indoline tails IVx.

reactant | α-bromoacetyl chloride | BrCC(=O)Cl | C2H2BrClO
reactant | acryloyl chloride | C(C=C)(=O)Cl | C3H3ClO
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
reactant | Me2NH | N(C)C | C2H7N
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | C1CCOC1 | C4H8O
product | anilino indoline | N(C1=CC=CC=C1)N1CCC2=CC=CC=C12 | C14H14N2
